US07560558B2
Compound 7: 6,7-Dimethoxy-4-{4-methoxy-2-[(E)-2-phenyl-1-ethenyl]phenoxy}quinoline
Sodium hydride (60 wt % oil, 52 mg) was dissolved in anhydrous tetrahydrofuran (1 ml), and a solution (0.5 ml) of benzylphosphonic acid (114 mg) in tetrahydrofuran was added dropwise to the solution at 0° C. under an argon atmosphere. The mixture was stirred at 0° C. for 30 min, and a solution (0.5 ml) of 2-[(6,7-dimethoxy-4-quinolyl)oxy]-5-methoxybenzaldehyde (100 mg) in tetrahydrofuran was then added dropwise thereto. The reaction mixture was stirred at room temperature for one hr, and water (1 ml) was then added dropwise thereto to stop the reaction. The mixture was extracted with ethyl acetate, and the ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by chromatography on silica gel using ethyl acetate-hexane for development to give the title compound (100 mg, yield 80%).

reactant | Sodium hydride | 52 mg | [H-].[Na+]
reactant | benzylphosphonic acid | 0.5 ml, 114 mg | C(C1=CC=CC=C1)P(O)(O)=O | C7H9O3P
reactant | 2-[(6,7-dimethoxy-4-quinolyl)oxy]-5-methoxybenzaldehyde | 0.5 ml, 100 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=O)C=C(C=C1)OC | C19H17NO5
reactant | water | 1 ml | O | H2O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 6,7-Dimethoxy-4-{4-methoxy-2-[(E)-2-phenyl-1-ethenyl]phenoxy}quinoline | 100 mg, yield 80% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)OC)\C=C\C1=CC=CC=C1 | C26H23NO4
